Name:  ___                          Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___               Sex:   F
 
Service: PSYCHIATRY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
___ Complaint:
"I told student health that I had planned a
suicide attempt"
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Per Dr. ___ ___ ED Initial Psychiatry Consult note: 

"Ms. ___ is an ___ year-old female student at ___
with history of three prior suicide attempts who was sent to
___ by ___ Health Services after disclosing SI with 
plan
to OD on Benadryl and alcohol. 

On interview, patient states that she is currently feeling fine
and is "not in a crisis". She states that she was sent to the
hospital after disclosing at to ___ Health Services at an
intake appointment today that last week she had purchased
Benadryl with the intent to OD to end her life. She stated that
she planned on taking the Benadryl with alcohol at a party this
weekend as a suicide attempt, however per ___
collateral note detailed below, did not follow through with plan
as her friend accompanied her to this party and she could not be
alone. Patient states that she had been feeling low in the weeks
leading up to contemplating overdosing on Benadryl and 
eventually
confirms reports that she had been looking around the ___ 
area
for buildings to jump off of. However, patient states that she 
is
no longer feeling suicidal and feels "fine" now but she is 
unable
to identify any major changes that have occurred since last
weekend to explain her abrupt change in mood. 

Patient states that she has struggled with daily thoughts of
passive suicidality for a long time, however when trying to get
her to quantify how long she has been feeling this way, she
replies "months or years". Patient describes a number of
psychosocial stressors that have contributed to her low mood in
the past weeks including feeling socially isolated as well as
struggling with school, patient also seems particularly anxious
over having a midterm exam tomorrow. In terms of social
isolation, patient describes having a friend in ___ whom she 
is
close with but has she potentially has romantic feelings for her
but feels as though she will "never see her again". Patient also
states she has been struggling in school and has already had to
withdraw from two courses this semester. 

On review of systems, patient endorses long standing history of
low mood however denies low mood at present. Endorses long
standing history of passive SI but again denies this at present.
Endorses hypersomnolence, sleeping around 12 hours a day which
she states is uncharacteristic for her. Endorses weight gain due
to increased appetite. Endorses low energy in spite of excessive
sleep along with decreased motivation. Describes that the
combination of her low energy and her decreased motivation is
what has contributed to her poor academic performance this
semester. Denies any auditory or visual hallucinations, denies
any homicidal ideation. "
 

 
Past Medical History:
Per Dr. ___ ___ ED Initial Psychiatry Consult note 
with
revision/supplementation as provided per history at time of
admission to unit.

========================
PAST PSYCHIATRIC HISTORY
========================
- Past diagnoses: Denies
- Hospitalizations: Denies
- Current treaters: No current therapist or psychiatrist, was
just seen at ___ for the first time on
___
- Self-injury/Suicide attempts: Describes 3 prior suicide
attempts in her life: 
      - #1) During middle school, cut her wrists with the
intention to end her life, stopped because of the pain. Did not
require medical attention. 
      - #2) During high school, took ___ tablets of Tylenol.
Reports waking up the next morning with a headache, did not
receive medical care. 
      - #3) Last year, researched toxic effects of Jimson weed
and ingested the plant with intention to end her life, woke up
the next morning "disappointed". 
- Trauma: endorses physical and emotional abuse from her mother
who hits her and tells her that she is "useless". Patient says
this had gone on for many years. Her father sees/hears this
happening but "doesn't care". 
- Access to weapons: Denies 

====================
PAST MEDICAL HISTORY
====================
Denies any medical conditions. 

===========
MEDICATIONS
===========
Denies current or previous medications. 

=========
ALLERGIES
=========
NKDA

 
Social History:
=====================
SUBSTANCE USE HISTORY
=====================
- EtOH: Drinks ___ shots of vodka once a week at parties, 
- Tobacco: Denies
- Cannabis: Denies
- Illicits: Denies

================
FORENSIC HISTORY
================
Denies any history of arrests, convictions, incarcerations, or
active warrants. 

==============
SOCIAL HISTORY
==============
Born and raised in ___. Only child, grew up with 
both
parents in the home, still married. Moved to ___ last month 
to
start school at ___ where she studies Biomedical
Engineering. Single. Lives in a dorm on ___ campus with one
roommate who she gets along with and says is "very nice".
She described her parents as unsupportive of her emotions and
unloving. Describes mother as easily angry and at times
physically/emotionally abusive hitting her and saying that
patient is useless/worthless. Had difficulty describing father
but explained that he was a bystander when her mother was 
hitting
her or calling her names. 
___ in school, says peers would call her names, do thing so
that the patient would get in trouble for them. 

 
Family History:
No family history of mental illness or suicide attempts. 

 
Physical Exam:
EXAM: 
 COGNITION 
- Wakefulness/alertness: awake and alert
- Orientation: oriented to person, time, place, situation
- Attention: MOYb with 0 errors
- Memory: 
     - ___ registration
     - ___ spontaneous recall after 5 min
     - long-term grossly intact
- Fund of knowledge: consistent with education; intact to 
current
president of ___. and ___
- Calculations: $1.75 = 7 quarters
- Abstraction: 
     - "Don't judge a book by its cover" = "Don't judge someone
by their appearance"
     - apple/orange = "both fruit"
- Language: Native ___ speaker although fluent ___
speaker, no paraphasic errors, appropriate to conversation

MENTAL STATUS
 - Appearance/Behavior: ___ Asian overweight female who appears
stated age, dressed in hospital gown, short hair with glasses,
scars on left wrist consistent with reports of previous cutting,
fair eye contact, at times looks down and appears nervous. Calm
and cooperative. 
 - Mood: "I feel nothing"
 - Affect: aloof, somewhat apathetic, affect isolation. at times
anxious
 - Speech: normal rate, volume, and tone
 - Thought process: linear, coherent, goal-oriented
 - Thought Content:
      - Safety: denies SI/HI   
      - Delusions: no evidence of paranoia, etc. 
      - Obsessions/Compulsions: no evidence based on current
encounter
      - Hallucinations: does not appearing to be attending to
internal stimuli
 - Insight: impaired
 - Judgment: impaired
     
General:
 -HEENT: Normocephalic, atraumatic. Moist mucous membranes,
oropharynx clear. No scleral icterus, 
-Cardiovascular: Regular rate and rhythm, normal S1,S2, no
murmurs/rubs/gallops. 
-Pulmonary: No increased work of breathing. Lungs clear to
auscultation bilaterally. No wheezes/rhonchi/rales. 
-Abdominal: Non-distended, bowel sounds normoactive. No
tenderness to palpation in all quadrants. No guarding, no 
rebound
tenderness. 
-Extremities: Warm and well-perfused. No edema of the limbs. 
-Skin: No rashes or lesions noted. 

Neurological:
 -Cranial Nerves: ---I: Olfaction not tested. ---II: pupils 3mm,
equal, round ---III, IV, VI: EOMI without nystagmus ---V:
Masseter ___ bilaterally ---VII: nasolabial folds symmetric
bilaterally ---VIII: Hearing intact to finger rub bilaterally
---IX, X: Palate elevates symmetrically ---XI: trapezii ___
symmetric bilaterally ---XII: Tongue protrudes midline -Motor:
Normal bulk and tone bilaterally. Strength ___ in deltoids,
biceps, triceps, quadriceps, hamstrings, -Sensory: deferred
-DTRs: 2+ patellar, biceps, Coordination: no intention tremor
noted -Gait: Good initiation. normal stride and arm swing. 
Absence of resting tremor, absence of action tremor 
Absence of rigidity or spasticity 
Absence of asterixis

 
Pertinent Results:
___ 12:50PM   ALT(SGPT)-21 AST(SGOT)-25 ALK PHOS-123* TOT 
BILI-0.7
___ 12:50PM   CHOLEST-199
___ 12:50PM   TRIGLYCER-100 HDL CHOL-47 CHOL/HDL-4.2 
LDL(CALC)-132*
___ 12:50PM   TSH-1.1
___ 12:50PM   HCG-<5
___ 04:09PM   GLUCOSE-105* UREA N-16 CREAT-0.8 SODIUM-141 
POTASSIUM-4.0 CHLORIDE-104 TOTAL CO2-22 ANION GAP-15
___ 04:09PM   estGFR-Using this
___ 04:09PM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
tricyclic-NEG
___ 04:09PM   WBC-11.8* RBC-4.89 HGB-13.9 HCT-41.9 MCV-86 
MCH-28.4 MCHC-33.2 RDW-12.8 RDWSD-39.4
___ 04:09PM   NEUTS-68.8 ___ MONOS-8.0 EOS-1.1 
BASOS-0.7 IM ___ AbsNeut-8.08* AbsLymp-2.48 AbsMono-0.94* 
AbsEos-0.13 AbsBaso-0.08
___ 04:09PM   PLT COUNT-446*
___ 04:00PM URINE  HOURS-RANDOM
___ 04:00PM URINE  HOURS-RANDOM
___ 04:00PM URINE  UCG-NEGATIVE
___ 04:00PM URINE  UHOLD-HOLD
___ 04:00PM URINE  GR HOLD-HOLD
___ 04:00PM URINE  bnzodzpn-NEG barbitrt-NEG opiates-NEG 
cocaine-NEG amphetmn-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
1. LEGAL & SAFETY:  
On admission, the patient signed a conditional voluntary 
agreement (Section 10 & 11) and remained on that level 
throughout their admission. She was also placed on 15 minute 
checks status on admission and remained on that level of 
observation throughout while being unit restricted.

2. PSYCHIATRIC:
Ms. ___ is an ___ year-old female student at ___ 
with
no prior psychiatric diagnoses, history of three prior suicide
attempts who was sent to ___ by ___ Student Health Services
after disclosing SI with plan to overdose on Benadryl and 
alcohol.
On initial interview, patient endorsed a long history of 
depression and
feelings of hopelessness since childhood. She described a
stressful home life with extreme pressure to succeed in school
and physical and emotional abuse. Patient has struggled with
feeling isolated for many years in ___ and continues to
isolated despite her move to the ___. She reported no
significant social supports in her life and very few protective
factors on admission. Of note, patient was able to seek help by 
alerting student health services of her plan to overdose. 
Although patient did not endorse SI in the ED, patient had 
history of 3 prior suicide attempts and a long standing history 
of
passive SI with nearly daily research on methods to end her 
life.
Mental status exam was significant for a young Asian female with
affect isolation and often reported her mood as "feeling 
nothing".
Diagnostically, patient's presentation was likely
consistent with a depressive episode given her
description of depressed mood, anhedonia, neurovegetative
symptoms, and SI with a plan. This episode could be secondary to
major depressive disorder, dysthymia, possible a prodrome to a 
psychotic disorder, in addition to possible personality traits 
such as borderline personality disorder playing a role. Patient 
was agreeable to starting sertraline 25mg which was titrated up 
to 50 mg due to depressive symptoms. Risperdal 0.5 mg nightly 
was added due to patient's difficulty with sleep and the concern 
for possible prodromal psychosis with patient demonstrated 
moments of inappropriate laughter and concern for negativism 
symptoms. Patient consistently denied SI after presentation and 
has been mostly cooperative with medications and treatment team. 
At discharge patient appears less dysthymic, more organized, and 
better able to participate in discharge planning. Patient has 
demonstrated linear, goal oriented thought process throughout 
hospitalization. Patient denies SI/HI/AVH and has not been 
observed to be responding to internal stimuli. Patient was able 
to participate in discharge planning by planning for meetings 
with ___ services for taking a leave of absence and working 
towards her goal to return to ___ after receiving treatment in 
___. Patient will discharge home to ___ with parents who 
will set patient up with psychiatric providers when arriving in 
___. Before flying to ___ patient will meet
with the reintegration clinician at ___ on the day 
of discharge. The family will also meet with the staff member 
helping patient with the medical leave from ___. The patient, her 
parents, and the treatment team agree that Ms. ___ follow up with 
an outpatient psychiatrist in ___. The psychiatrist will 
then assess the patient and decide if she needs to continue 
inpatient treatment or can be followed as an outpatient.

3. SUBSTANCE USE DISORDERS: Patient does not have any current 
substance use disorders. 

4. MEDICAL: no current medical conditions. 

5. PSYCHOSOCIAL
#) GROUPS/MILIEU:  
The patient was encouraged to participate in the various groups 
and milieu therapy opportunities offered by the unit. The 
patient rarely attended these groups that focused on teaching 
patients various coping skills and often isolated in her room 
despite continued encouragement by occupational therapy. At 
times patient could be seen being social with select peers in 
the milieu, behaving appropriately, laughing, and smiling while 
playing board games and singing songs. 

#) COLLATERAL INFORMATION AND  FAMILY INVOLVEMENT
Family meeting was held on ___ after with patient and 
both
parents present along with treatment team, social worker ___ 
___,
and ___ translator. Patient's mother and father were given
the clinical update on patient and options about discharge where
the main topic of discussion. Patient reported that she wanted
her parents to leave her alone and to stop invading her privacy. 
Patient's
mother explained that she planned to help ___ get an
appointment the day after they return to ___ where the
psychiatrist there could help decide what level of care ___
could receive. Patient's mother said that going to the ED and
then going straight to another psychiatric inpatient admission
was not really an option in ___ but going through an 
outpatient
psychiatrist would be possible. Patient did not participate much
in this conversation when asked about her thoughts on the topic 
however was engaged when talking about plans for following up 
with health services at ___ and arranging her leave of absence 
with ___ with plans to return to ___ after receiving treatment in 
___. 

Collateral from ___, ___ ___

"Pt came in for routine appointment scheduled last week and
reported that last ___ she bought what she believed to be 
a
lethal amount of Benadryl to take as suicide attempt. Report pt
then read the label which said it could cause hallucinations so
she decided to going to a party so she could get alcohol in 
order
to drink beer and take Benadryl together. Planned to get a beer
and go someplace alone to die but her roommate went with her so
she couldn't drink Benadryl. Pt still has Benadryl in her room.
Pt has had 3 previous suicide attempts in the past. First 
attempt
was in middle school cut wrist but stopped due to pain, has
visible  scarring. Second attempt was in high school by OD on 2
bottles of Tylenol, woke up the next morning and was
disappointed. Last attempt was ___ year later researched "___
weed" and ate all of it as suicide attempt, again woke up and 
was
disappointed.
Pt is from ___ and once when to the roof of tall building,
looked over the edge to jump but got scared. Pt reports she  has
since been thinking of places to jump from there and in ___.
Pt has not been going to classes, has limited friends, and
reported she has been chronically depressed since age ___ with
daily suicidal thoughts.
Pt let BU BP check her bag and came willingly ED."

#) INTERVENTIONS
- Medications: Sertraline 50mg daily and Risperdal 0.5mg qhs
- Psychotherapeutic Interventions: Individual, group, and milieu 
therapy.
- Coordination of aftercare: follow up with outpatient provider 
in ___
- Behavioral Interventions: encouraged DBT skills, coping 
skills, and provided individual and group psychotherapy and 
psychoeducation. 

INFORMED CONSENT: We discussed the indications for, intended 
benefits of, and
possible side effects and risks of risperidone, and risks and
benefits of possible alternatives, including not taking the
medication, the patient's right to decide whether to take this
medication as well as the importance of the patient's actively
participating in the treatment and discussing any questions 
about
medications with the team, and the team answered the patient's 
questions.  The
patient appeared able to understand and consented to begin the
risperidone.

RISK ASSESSMENT & PROGNOSIS
On presentation, the patient was evaluated and felt to be at an 
increased risk of harm to herself and/or others based upon her 
risk factors, such history of suicide attempts, history of 
abuse/trauma, history of binge drinking, history of
self-injurious behavior, adolescent or elderly age, single 
relationship status, limited social supports, suicidal ideation 
with intent/plan, impulsiveness, lack of engagement with 
outpatient treatment, no established outpatient providers, 
social
withdrawal, hopelessness, lack of purpose, decreased 
self-esteem,
acutely stressful events, limited coping skills.   The 
modifiable risk factors were also addressed at that time. 
Patient was provided with psychiatric medications to help treat 
patient's depression and feelings of hopelessness, coping skills 
groups were provided, and family meeting was held to involve 
family as social supports for patient and to help patient 
establish outpatient psychiatric care. Finally, the patient is 
being discharged with many protective risk factors, female 
gender, help-seeking behavior, no access to lethal weapons, 
reality testing ability, lack of suicidal ideation, future 
oriented view-point, and social supports.  Overall, the patient 
is no longer at an acutely elevated risk of self-harm nor danger 
to others due to acutely decompensated psychiatric illness. 

 
Medications on Admission:
none
 
Discharge Medications:
1.  RisperiDONE 0.5 mg PO QHS 
RX *risperidone 0.5 mg 1 tablet(s) by mouth nightly Disp #*30 
Tablet Refills:*0 
2.  Sertraline 50 mg PO DAILY 
RX *sertraline 50 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Unspecified Depressive Disorder
Rule out Prodrome to Psychotic disorder
Rule out personality traits such as Borderline personality 
disorder

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

MSE: 
Appearance: ___ yo Asian female appearing stated age, wearing
casual clothing BU sweatshirt and sweatpants, fair hygiene 
Attitude/Behavior: occasionally looked to the side when 
responding to questions, calm and cooperative, at times smiling 
inappropriately, appeared to be nervous
Speech: normal rate, rhythm, and prosody
Mood: 'fine'
Affect: somewhat blunted, at times slightly aloof or 
uninterested but more involved in conversation than on previous 
interviews
Thought Content: denies SI/HI/AVH, does not appear to be 
responding to internal stimuli
Thought Process: linear, goal directed, future oriented
Insight: improving but patient did recognize she has a mental 
illness
Judgement: improving

 
Discharge Instructions:
-Please follow up with all outpatient appointments as listed - 
take this discharge paperwork to your appointments.
-Unless a limited duration is specified in the prescription, 
please continue all medications as directed until your 
prescriber tells you to stop or change.
-Please avoid abusing alcohol and any drugs--whether 
prescription drugs or illegal drugs--as this can further worsen 
your medical and psychiatric illnesses.
-Please contact your outpatient psychiatrist or other providers 
if you have any concerns.
-Please call ___ or go to your nearest emergency room if you 
feel unsafe in any way and are unable to immediately reach your 
health care providers.
It was a pleasure to have worked with you, and we wish you the 
best of health.
 
Followup Instructions:
___